US08791129B2
1-Bromo-2-chloromethyl-4,5-difluorobenzene
146 μl of thionyl chloride in 2.5 ml of dichloromethane are added dropwise to 300 mg of (2-bromo-4,5-difluorophenyl)methanol in 2.5 ml of dichloromethane, and the mixture is stirred at 25° C. for 2 h. The mixture is evaporated to dryness in vacuo, the residue is taken up in 10 ml of toluene, and the operation is repeated. The residue is employed in the subsequent reactions without further treatment.

reactant | thionyl chloride | 146 μl | S(=O)(Cl)Cl | Cl2OS
reactant | (2-bromo-4,5-difluorophenyl)methanol | 300 mg | BrC1=C(C=C(C(=C1)F)F)CO | C7H5BrF2O
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | 1-Bromo-2-chloromethyl-4,5-difluorobenzene | BrC1=C(C=C(C(=C1)F)F)CCl | C7H4BrClF2
